US04201733
Reactant O,O-Diethyl N-(Chlorothio) -N-(n-propyl)-Phosphoramidothioate
A solution of 2.98 gm. (0.014 mole) O,O-diethyl n-propylphosphoramidothioate in 10 ml. hexane and 2 ml. triethylamine is added to a cold (0° C.) solution of 1.0 ml. (0.016 mole) sulfur dichloride in 10 ml. hexane slowly and with stirring. There is vigorous reaction and heavy precipitation of triethylamine hydrochloride. An additional 20 ml. hexane is added. The reaction mixture is kept at 0° to 5° C. and stirred for 30 minutes, then it is filtered. The filtrate is concentrated to a pale yellow oil by evaporating the hexane under reduced pressure. The oil comprises the desired O,O-diethyl N-(chlorothio)-n-propylphosphoramidothioate which can be used for further reactions with N-methylcarbamates.

reactant | O,O-diethyl n-propylphosphoramidothioate | 0.014 mole | C(CC)NP(OCC)(OCC)=S | C7H18NO2PS
reactant | sulfur dichloride | 0.016 mole | S(Cl)Cl | Cl2S
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | hexane | CCCCCC | C6H14
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | O,O-Diethyl N-(Chlorothio) -N-(n-propyl)-Phosphoramidothioate | ClSN(P(OCC)(OCC)=S)CCC | C7H17ClNO2PS2
